US07838543B2
N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-2-methyl-3-phenyl-acrylamide
Prepare according to Method B, using α-methylcinnamic acid (99 mg, 0.610 mmol) and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (162 mg, 0.618 mmol) to yield the title compound (31 mg, 12%). mass spectrum (m/e): 407.3 [M+H], 405.2 [M−H].

reactant | α-methylcinnamic acid | 0.610 mmol, 99 mg | CC(C(=O)O)=CC1=CC=CC=C1 | C10H10O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.618 mmol, 162 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-2-methyl-3-phenyl-acrylamide | 31 mg, 12% | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)NC(C(=CC2=CC=CC=C2)C)=O)C | C23H26N4OS
